US05504070
N-(1-Diethoxyphosphinyl-3-phenylpropyl)-L-valine
Triethylphosphite (7.09 g, 42.7 mmol), L-valine (5 g, 42.7 mmol) and hydrocinnamaldehyde (5.73 g, 42.7 mmol) are heated in acetic acid (15 mL) at 80° C. for 4 h. After evaporating the solvent, the solid is dissolved in 5% sodium bicarbonate solution, washed with ether and acidified to pH =4. The aqueous mixture is extracted with ethyl acetate, dried and evaporated to afford the title compound.

reactant | Triethylphosphite | 42.7 mmol, 7.09 g | C(C)OP(OCC)OCC | C6H15O3P
reactant | L-valine | 42.7 mmol, 5 g | N[C@@H](C(C)C)C(=O)O | C5H11NO2
reactant | hydrocinnamaldehyde | 42.7 mmol, 5.73 g | C(CCC1=CC=CC=C1)=O | C9H10O
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | N-(1-Diethoxyphosphinyl-3-phenylpropyl)-L-valine | C(C)OP(=O)(C(CCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)O)OCC | C18H30NO5P
